US08357717B2
Stage 2: 5-(3,4-Dichlorophenylcarbamoyl)-4,5,6,7-tetrahydroisoxazolo-[4,5-c]pyridine-3-carboxylic acid
Lithium hydroxide monohydrate (56%) (0.25 g, 6.038 mmol) dissolved in water (8 ml) was added to a solution of ethyl 5-(3,4-dichlorophenylcarbamoyl)-4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine-3-carboxylate (1.2 g, 3.019 mmol) in methanol (25 ml), and the mixture was stirred for 15 h. The solvent was removed in vacuo. The aqueous phase was adjusted to an acidic pH value with dilute HCl solution (aq.) and extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated in vacuo. The resulting crude product was used directly in the following stage. Yield: 0.94 g (87%).

reactant | Lithium hydroxide monohydrate | 6.038 mmol, 0.25 g | O.[OH-].[Li+]
reactant | ethyl 5-(3,4-dichlorophenylcarbamoyl)-4,5,6,7-tetrahydroisoxazolo[4,5-c]pyridine-3-carboxylate | 3.019 mmol, 1.2 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CC2=C(CC1)ON=C2C(=O)OCC | C16H15Cl2N3O4
solvent | water | 8 ml | O | H2O
solvent | methanol | 25 ml | CO | CH4O
product | 5-(3,4-Dichlorophenylcarbamoyl)-4,5,6,7-tetrahydroisoxazolo-[4,5-c]pyridine-3-carboxylic acid | ClC=1C=C(C=CC1Cl)NC(=O)N1CC2=C(CC1)ON=C2C(=O)O | C14H11Cl2N3O4
